US06329367B1
b) 6-Chloro-3-(1-methylcyclohexyl)amino-4H-thieno[3,2-e]-1,2,4-thiadiazine 1,1-dioxide
A mixture of 6-chloro-3-fluoro-4H-thieno[3,2-e]-1,2,4-thiadiazine 1,1-dioxide (0.5 g, 2.08 mmol), 1-methylcyclohexylamine hydrochloride (373 mg, 2.49 mmol) and triethylamine (0.58 ml, 4.16 mmol) in ethanol (3 ml) was stirred for 20 h at 50° C. and then for 22 h at 100° C. in a sealed flask. The cooled mixture was concentrated in vacuo and the residue was triturated with water followed by adjustment to pH <2 with 4M hydrochloric acid. The crude product was isolated by filtration and dissolved in 1 N sodium hydroxide followed by treatment with decolourising charcoal. After filtration, the solution was acidified to pH <2 with 4M hydrochloric acid and the precipitate was filtered off and purified by chromatography (dichloromethane/methanol (19:1)). Recrystallisation from ethanol afforded 55 mg (8%) of the pure title compound; mp 218-219° C.; 1H-NMR (DMSO-d6): δ1.18-1.54 (m, 11H), 1.97-2.12 (m, 2H), 6.55 (br s, 1H), 7.12 (s, 1H), 10.60 (br s, 1H).

reactant | 6-chloro-3-fluoro-4H-thieno[3,2-e]-1,2,4-thiadiazine 1,1-dioxide | 2.08 mmol, 0.5 g | ClC1=CC=2NC(=NS(C2S1)(=O)=O)F | C5H2ClFN2O2S2
reactant | 1-methylcyclohexylamine hydrochloride | 2.49 mmol, 373 mg | Cl.CC1(CCCCC1)N
reactant | triethylamine | 4.16 mmol, 0.58 ml | C(C)N(CC)CC | C6H15N
reactant | charcoal | C | CH4
solvent | ethanol | 3 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 1 N | [OH-].[Na+]
product | 6-Chloro-3-(1-methylcyclohexyl)amino-4H-thieno[3,2-e]-1,2,4-thiadiazine 1,1-dioxide | 55 mg, 8% | ClC1=CC=2NC(=NS(C2S1)(=O)=O)NC1(CCCCC1)C | C12H16ClN3O2S2
